US05635510
77.1 Synthesis of 1-benzyl-4-(4-chloro-phenyl)-4-cyano-piperidine
Prepare by the method of example 76.1 using 4-chlorophenyl-acetonitrile (1.0 g, 6.6 mmol) and N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride (1.5 g, 6.6 mmol) to give the title compound.

reactant | 4-chlorophenyl-acetonitrile | 6.6 mmol, 1.0 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride | 6.6 mmol, 1.5 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
product | 1-benzyl-4-(4-chloro-phenyl)-4-cyano-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl | C19H19ClN2
